US04829067
A mixture of 5.0 g of methyl 3-formyl-2-hydroxybenzoate, 11.7 g of 4-nitrobenzyl bromide, 11.7 g of potassium carbonate and 70 ml of dimethylformamide is stirred at room temperature for 1 hour. The reaction mixture is poured into water and the aqueous mixture is extracted with ethyl acetate. The extract is dried and evaporated to remove solvent to give 8.70 g of methyl 3-formyl-2-(4-nitrobenzyloxy)benzoate as colorless powder.

reactant | methyl 3-formyl-2-hydroxybenzoate | 5.0 g | C(=O)C=1C(=C(C(=O)OC)C=CC1)O | C9H8O4
reactant | 4-nitrobenzyl bromide | 11.7 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-formyl-2-(4-nitrobenzyloxy)benzoate | 8.70 g | C(=O)C=1C(=C(C(=O)OC)C=CC1)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H13NO6
